US09062032B2
To a mixture of 6.9 g of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 1.5 mL of pyridine and 69 mL of methylene chloride was added dropwise 3.27 g of 3-(chloromethyl)benzoyl chloride, followed by stirring for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure, ethanol was added thereto, and the precipitated solid was collected by filtration, thereby obtaining 9.27 g of methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate.

reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 6.9 g | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-(chloromethyl)benzoyl chloride | 3.27 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
solvent | methylene chloride | 69 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 9.27 g | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C33H31ClN2O4S
